Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Vomiting and nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old with ESRD on HD secondary to PKD presenting with 
nausea, vomiting and abdominal pain.  
 Pt reports that he was in a motor vehicle accident 4 days ago, 
and underwent a full trauma survey including ___ that was 
negative. He also reports a hospitalization at ___ roughly 
one month ago in which he presented with abdominal pain and 
nausea, vomiting and was ultimately found to have a pneumonia. 
Pt states that prior to his current episode of nausea, vomting, 
abdominal pain he had been at the mall and ate chicken teriyaki. 
He states that he developed his symptoms roughly 1 hour after 
eating. He reports throwing up non-bloody vomit multiple times, 
and after he did not improve decided to present to ___ for 
further evaluation.  
 In the ED, initial vitals were: 99.0 88 148/95 16 100% RA  
 - Labs were significant for WBC 8.1, H/H 11.2/33.3, plts 174, 
Na 143, K 5.1, BUN/Cr 70/14.7, troponin 0.03, lactate 1.3, 
lipase 116, AP 371  
 - CT abd/pelvis was done and did not demonstrate evidence of 
appendicitis or pancreatitis, was only remarkable for polycyctic 
kidneys  
 - CXR was normal  
 - The patient was given Zofran 4mg IV x 2  
 Vitals prior to transfer were: 97.5 76 126/79 16 99% RA  
 
 Upon arrival to the floor, pt reports that he still has 
abdominal pain nausea. He reports a normal BM on arrival to the 
floor. He states that his last HD session was ___.
 
Past Medical History:
 - ESRD on HD secondary to polycystic kidney disease  
 
Social History:
___
Family History:
Mother - ESRD ___ PKD, deceased  
 
Physical Exam:
Admission exam:
Vitals: 97.8 132/70 78 20 98% on RA, Wt 66.7 kg  
General: Alert, oriented, some discomfort  
HEENT: Sclera anicteric, MMM  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding, some diffuse tenderness, 
worst over epigastrum  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, LUE fistula, palpable thrill  
Neuro: Grossly intact. 

Discharge Exam:
Vitals: 97.8 132/70 78 20 98%RA 
General: Alert, oriented, some discomfort  
HEENT: Sclera anicteric, MMM  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding, some diffuse tenderness, 
worst over epigastrum and RUQ
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, LUE fistula, palpable thrill  
Neuro: Grossly intact.  
 
Pertinent Results:
Admission labs:
___ 10:30PM BLOOD WBC-8.1 RBC-3.78* Hgb-11.2* Hct-33.3* 
MCV-88 MCH-29.6 MCHC-33.6 RDW-13.7 RDWSD-44.4 Plt ___
___ 10:30PM BLOOD Neuts-62.5 ___ Monos-9.3 Eos-4.1 
Baso-0.5 Im ___ AbsNeut-5.04 AbsLymp-1.87 AbsMono-0.75 
AbsEos-0.33 AbsBaso-0.04
___ 10:30PM BLOOD Glucose-81 UreaN-70* Creat-14.7* Na-143 
K-5.1 Cl-99 HCO3-27 AnGap-22*
___ 10:30PM BLOOD ALT-39 AST-22 AlkPhos-371* TotBili-0.5
___ 10:30PM BLOOD Lipase-116*
___ 10:30PM BLOOD cTropnT-0.03*
___ 10:30PM BLOOD Albumin-4.5 Calcium-10.3 Phos-5.8* Mg-2.6
___ 10:39PM BLOOD Lactate-1.3

IMAGING:  
CT Abd/Pelvis w/out Contrast ___  
IMPRESSION:  
 1. No appendicitis.  
 2. Polycystic kidneys.  

CXR ___  
IMPRESSION:  
 No acute cardiopulmonary process.  

Discharge Labs:
___ 11:55AM BLOOD WBC-5.8 RBC-3.85* Hgb-11.5* Hct-33.9* 
MCV-88 MCH-29.9 MCHC-33.9 RDW-13.9 RDWSD-44.4 Plt ___
___ 11:55AM BLOOD Glucose-141* UreaN-73* Creat-15.7* Na-135 
K-5.4* Cl-93* HCO3-25 AnGap-22*
___ 11:55AM BLOOD ALT-31 AST-16 AlkPhos-337* TotBili-0.6
___ 11:55AM BLOOD Lipase-86*
___ 11:55AM BLOOD Calcium-10.2 Phos-5.6* Mg-2.6 Iron-PND
 
Brief Hospital Course:
Summary:
___ year old with ESRD on HD secondary to PKD presenting with 
nausea, vomiting and abdominal pain. He improved with 
symptomatic treatment and was discharged in good condition. 

Acute Issues:
# Nausea and vomiting
Patient presented with acute onset symptoms without diarrhea 
after eating fast food. He was noted to have an elevated lipase 
in the setting of vomiting and ESRD. A CT abd/pelvis did not 
find acute pathology and confirmed known PKD. A chest xray did 
not find any pneumonia. He was treated symptomatically with IVF 
and Zofran and improved overnight. A UA was normal and lipase 
was downtrending with repeat LFTs wnl. At the time of discharge, 
the patient was tolerating oral intake without any difficulty. 
He was discharged in good condition and set up with a new PCP. 

Chronic Issues:
# ESRD: Continued home sensipar, nephrocaps, phoslo. 

# Normocytic anemia: Likely ___ renal disease. CBC stable, sent 
iron panel. 

Transitional
1. Patient was prescribed short course of po Zofran for nausea. 
2. He had no PCP on admission and was set up with a PCP to 
establish care with ___. 

# CODE STATUS: Full code 
# CONTACT: ___ (girlfriend) ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Cinacalcet 30 mg PO DAILY 
2. Velphoro (sucroferric oxyhydroxide) 500 mg oral DAILY 
3. Nephrocaps 1 CAP PO DAILY 
4. Calcium Acetate 1334 mg PO TID W/MEALS 

 
Discharge Medications:
1. Calcium Acetate 1334 mg PO TID W/MEALS 
2. Cinacalcet 30 mg PO DAILY 
3. Nephrocaps 1 CAP PO DAILY 
4. Velphoro (sucroferric oxyhydroxide) 500 mg oral DAILY 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Gastroenteritis

Secondary diagnosis
ESRD
Polycystic kidney disease
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for abdominal pain and nausea. 
This was likely a result of either food poisoning from something 
you ate or a viral infection of your GI tract. It improved with 
some fluids and medication to help with the nausea. Please get 
plenty of rest and adequate fluid intake. Please also establish 
with a primary care doctor and follow with them. It was a 
pleasure taking care of you, best of luck. 

Your ___ medical team
 
Followup Instructions:
___